US08278457B2
Step 1. Synthesis of trans-2-[(6-bromopyridin-3-yl)oxy]cyclohexanol
The title compound of Step 1 was prepared according to the general procedure for the synthesis of trans-2-(4-bromo-3-fluorophenoxy)cyclopentanol in Preparation 3, except that 6-bromopyridin-3-ol was used instead of 4-bromo-3-fluorophenol, and 7-oxabicyclo[4.1.0]heptane in place of 6-oxabicyclo[3.1.0]hexane. The crude product (preparation run in four batches) was recrystallized from heptane to provide trans-2-[(6-bromopyridin-3-yl)oxy]cyclohexanol as an off-white solid. Yield: 11.09 g, 40.75 mmol, 46%. 1H NMR (500 MHz, CDCl3) δ 1.27-1.46 (m, 4H), 1.76-1.80 (m, 2H), 2.09-2.13 (m, 2H), 2.41 (d, J=2.6 Hz, 1H), 3.74 (m, 1H), 4.00 (m, 1H), 7.17 (dd, J=8.7, 3.1 Hz, 1H), 7.37 (d, J=8.5 Hz, 1H), 8.10 (d, J=3.0 Hz, 1H).

reactant | trans-2-(4-bromo-3-fluorophenoxy)cyclopentanol | BrC1=C(C=C(O[C@H]2[C@@H](CCC2)O)C=C1)F | C11H12BrFO2
reactant | 6-bromopyridin-3-ol | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | 7-oxabicyclo[4.1.0]heptane | C12CCCCC2O1 | C6H10O
product | trans-2-[(6-bromopyridin-3-yl)oxy]cyclohexanol | BrC1=CC=C(C=N1)O[C@H]1[C@@H](CCCC1)O | C11H14BrNO2
